US07485752B2
Thiophene-3-carboxylic acid N′-[3-(2′,3′-dimethyl-biphenyl-2-yl)-propionyl]-N′-isopropyl-hydrazide
A solution of 3-(2′,3′-dimethyl-biphenyl-2-yl)-propionic acid (207 mg, 0.81 mmoles) and thiophene-3-carboxylic acid N′-isopropyl-hydrazide (150 mg, 0.81 mmoles) in DMF (8 mL) was treated with triethylamine (0.34 mL, 2.44 mmoles), HOBT (132 mg, 0.98 mmoles) and EDCI (156 mg, 0.98 mmoles) at room temperature for 48 h. The reaction mixture was partitioned between 1N HCl and dichloromethane. The organic layer was washed successively with 1N NaOH and brine, then dried over sodium sulfate, filtered and concentrated. The crude was absorbed on silica and purified on a silica gel column with a 20-50% ethyl acetate/hexanes gradient to afford the product (172 mg, 50%). LC-MS m/e 421.46 (M+H+)

reactant | 3-(2′,3′-dimethyl-biphenyl-2-yl)-propionic acid | 0.81 mmoles, 207 mg | CC1=C(C=CC=C1C)C1=C(C=CC=C1)CCC(=O)O | C17H18O2
reactant | thiophene-3-carboxylic acid N′-isopropyl-hydrazide | 0.81 mmoles, 150 mg | C(C)(C)NNC(=O)C1=CSC=C1 | C8H12N2OS
reactant | triethylamine | 2.44 mmoles, 0.34 mL | C(C)N(CC)CC | C6H15N
reactant | HOBT | 0.98 mmoles, 132 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.98 mmoles, 156 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | Thiophene-3-carboxylic acid N′-[3-(2′,3′-dimethyl-biphenyl-2-yl)-propionyl]-N′-isopropyl-hydrazide | 172 mg, 50% | CC1=C(C=CC=C1C)C1=C(C=CC=C1)CCC(=O)N(NC(=O)C1=CSC=C1)C(C)C | C25H28N2O2S
